US07820662B2
7-Chloro-2-pyridin-2-ylquinoline
Iron powder (167 g, 2990 mmol), water (60 mL), and concentrated hydrochloric acid (3 mL, ˜36 mmol) were added consecutively to a solution of 4-chloro-2-nitrobenzaldehyde (55.7 g, 300 mmol) in EtOH (600 mL). After stirred (mechanically) at 95° C. for 10 min, another aliquot of concentrated hydrochloric acid (2 mL, ˜24 mmol) was added. Stirring was continued at 95° C. for another 80 min. 1-Pyridin-2-ylethanone (33 mL, 294.1 mmol) and solid KOH (50.5 g, 900 mmol) were then added in portions with caution. The resulting mixture was stirred at 95° C. for 4 h. After cooled to rt, the reaction was diluted with dichloromethane (500 mL) and filtered through a Celite pad. The filtrate was concentrated to approximately 100 mL. The desired precipitated product was collected by filtration; 1H-NMR (CDCl3, 400 MHz) δ 7.37-7.40 (m, 1H), 7.51 (dd, J=2.0, 8.8 Hz, 1H), 7.79 (d, J=8.4 Hz, 1H), 7.89 (dt, J=1.6, 8.0 Hz, 1H), 8.19 (s, 1H), 8.26 (d, J=8.8 Hz, 1H), 8.57 (d, J=8.8 Hz, 1H), 8.64 (d, J=8.4 Hz, 1H), 8.74-8.75 (m, 1H); MS (ES+): m/z 241 (MH+, 35Cl), 243 (MH+, 37Cl); HPLC: tR=3.95 min (OpenLynx, polar—5 min).

reactant | hydrochloric acid | ˜36 mmol, 3 mL | Cl | ClH
reactant | 4-chloro-2-nitrobenzaldehyde | 300 mmol, 55.7 g | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | hydrochloric acid | ˜24 mmol, 2 mL | Cl | ClH
reactant | 1-Pyridin-2-ylethanone | 294.1 mmol, 33 mL | N1=C(C=CC=C1)C(C)=O | C7H7NO
reactant | KOH | 900 mmol, 50.5 g | [OH-].[K+]
solvent | EtOH | 600 mL | CCO | C2H6O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | Iron | 2990 mmol, 167 g | [Fe] | Fe
solvent | water | 60 mL | O | H2O
product | 7-Chloro-2-pyridin-2-ylquinoline | ClC1=CC=C2C=CC(=NC2=C1)C1=NC=CC=C1 | C14H9ClN2
